US07384934B2
(S)-10-[4-Ethyl-3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Using the method of Example 346 using (5)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene and acetaldehyde at ambient temperature, and purification by flash chromatography, eluting with a gradient of a 5% solution of 2M ammonia in methanol, in dichloromethane, (0-50% over 25 minutes, 50% for 10 minutes, 50-100% over 23 minutes, 100% for 5 minutes) gives the title compound: mass spectrum (APCI, m/e): 440 (M+1); NMR (1H, 300 MHz, DMSO-d6), δ (ppm): δ 8.47 (s, 1H), 6.96-6.81 (m, 3H), 6.71 (m, 1H), 3.50 (br. m, 3H), 3.35-3.21 (m, 2H), 3.21-3.07 (m, 4H), 2.76-2.51 (m, 3H), 2.37 (m, 2H), 1.67 (m, 2H), 0.96 (t, 3H, J=6.9 Hz).

reactant | (5)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C18H20F3N5OS
reactant | acetaldehyde | C(C)=O | C2H4O
product | (S)-10-[4-Ethyl-3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | C(C)N1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCOC | C20H24F3N5OS
